US04005217
A suspension of N-(4-n-butyl-2-nitrophenyl)-2-bromoacetamide (41 g) in ethanol (200 ml) was treated with a solution of dimethylamine in ethanol (90 ml of 20% w/w). The mixture was refluxed for one hour and the ethanol was evaporated off. Water (100 ml) was added and the mixture extracted with diethyl ether (3 × 200 ml). The extract was dried over magnesium sulphate, filtered and evaporated to give N-(4-n-butyl-2-nitrophenyl)-2-dimethylaminoacetamide as a yellow oil which was used without further purification in the next stage.

reactant | N-(4-n-butyl-2-nitrophenyl)-2-bromoacetamide | 41 g | C(CCC)C1=CC(=C(C=C1)NC(CBr)=O)[N+](=O)[O-] | C12H15BrN2O3
reactant | dimethylamine | CNC | C2H7N
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | N-(4-n-butyl-2-nitrophenyl)-2-dimethylaminoacetamide | C(CCC)C1=CC(=C(C=C1)NC(CN(C)C)=O)[N+](=O)[O-] | C14H21N3O3
